Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:14])[H:15].[C:6](#[N:7])[H:16],59.1999890205277
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:6](=[O:7])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:15])[H:16])([H:13])[H:14],90.7375537553105
[O:1]1[C:2]([H:8])([H:9])[C@:3]1([O:4][H:7])[C:5](=[O:6])[H:10]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],29.559310103766396
[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:8])([H:9])[H:10].[N:5]([C:6]#[N:7])([H:14])[H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],61.60198586919254
[C:1]([O:2]/[C:3](=[C:4](/[O:5][H:9])[H:11])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],49.777690054210304
[C:1](=[C:2]([C@@:5]([C:3](=[O:4])[H:11])([O:6][H:14])[H:13])[H:10])([H:7])[H:9].[H:8][H:12]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],36.59384115925495
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[H:6][H:10].[O-:1][C:2]([C@@:3]1([H:9])[C+:4]([H:11])[N:5]1[H:12])([H:7])[H:8],89.2969048135148
[C:1]([O+:2]=[C:3]([O:4][H:10])[C:5]#[C-:6])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],31.61944612872818
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[C:3](=[O:4])([C:5]#[C:6][C:7]([H:13])([H:14])[H:15])[H:8],79.9379849477553
[H:7][H:8].[N:1]#[C:2]/[N:3]=[C:4](\[N:5]=[O:6])[H:9]>>[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8],30.21516516725451
[O:1]=[C:2]([O:6][C:5]([C:4]([C:3][H:8])([H:9])[H:10])([H:11])[H:12])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],7.850173101870013
[C:1]([C@@:2]1([H:10])[O:3][C@:4]1([O:5][H:11])[N:6]([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],6.328549860380797
[C:1]([N+:2]([C-:3]([H:10])[H:12])=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],6.633424194089002
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10],77.85260472488629
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([N+:7]#[C-:6])[H:10])([H:8])[H:9],35.2833294900181
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](/[N:4]=[N:5]/[H:12])=[C:7](/[C:6][H:13])[H:14])[H:11])([H:8])([H:9])[H:10],98.97426499928619
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:4](=[C:5]([H:11])[H:12])([H:9])[H:10].[O:1]=[C:2]([C:3](=[O:6])[H:8])[H:7],47.027267564163296
[N:1]#[C:2][C:3]#[C:4][H:8].[O:5]=[N+:6]=[N-:7]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],25.8212602877878
[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C:6](=[C:5]=[C:2]([C:3]#[C:4][H:9])[H:8])[H:10])[H:7],55.1364076346161
[H:9][H:10].[N:1](=[C:2]1[C:3]([H:8])=[C:4]=[C:5]([H:11])[O:6]1)[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],6.285438621157212
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13],76.3635768898028
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8]>>[O:1]=[C:6]([C:5]#[C:2][C:3]#[C:4][H:7])[H:8],70.1500632023127
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2]=[C:6]=[N:7][H:9])[H:8].[O:3]=[C:4]=[O:5],44.89300279678571
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6][C:7]1([H:9])[H:17],67.0096652818639
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([C:2]1=[N:6][C@@:5]1([N+:4](=[N-:3])[H:9])[H:10])([H:7])[H:8],112.135840590238
[O:1]([O:6][C@:5]1([H:12])[C@@:2]2([H:8])[C:3]([H:9])([H:10])[C@:4]21[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],29.694115331695087
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]=[C:2]=[N:7][C:6]([C:5]([C:4]([N:3]([H:8])[H:15])([H:9])[H:10])([H:11])[H:12])([H:13])[H:14],71.4573321469156
